US04898874
3-(4-Bromophenyl)-5-chloro-7-methyl-2,1-benzisoxazole
A solution of 130 ml of 30% hydrogen peroxide in 350 ml of glacial acetic acid was heated on a steam bath for 1 hr and then cooled. To the cooled solution was added 31.0 g (0.0955 mole) of (2-amino-5-chloro-3-methylphenyl)(4-bromophenyl)methanone followed by 450 ml of glacial acetic acid. The reaction mixture was heated to 95° C. to dissolve all solids, heated at 65°-70° C. for 8 hr and then cooled. The reaction mixture was poured into 2.5 liters of ice water and let stand at ambient temperature for 3 hr and filtered. The filter cake was washed with 500 ml of 10% sodium bicarbonate solution and 500 ml of water and dried to give 22.5 g of solid. The solid was recrystallized from 2-propanol to give 20.5 g (67%) of fluffy yellow needles, m.p. 163°-165° C.

reactant | hydrogen peroxide | 130 ml | OO | H2O2
reactant | (2-amino-5-chloro-3-methylphenyl)(4-bromophenyl)methanone | 0.0955 mole, 31.0 g | NC1=C(C=C(C=C1C)Cl)C(=O)C1=CC=C(C=C1)Br | C14H11BrClNO
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Bromophenyl)-5-chloro-7-methyl-2,1-benzisoxazole | 22.5 g | BrC1=CC=C(C=C1)C=1ON=C2C1C=C(C=C2C)Cl | C14H9BrClNO
